US08013008B2
(2S,3S)-2-isopropyl-3-methylpyrrolidin-3-ol 0.5 oxalate
By an operation in the same manner as in Reference Example 4 and using benzyl (2S,3S)-3-hydroxy-2-isopropyl-3-methylpyrrolidine-1-carboxylate (1.78 g) and 50% water containing −10% Pd/C (0.09 g), the title compound was obtained as a colorless solid (yield: 1.07 g, yield: 89%).

reactant | benzyl (2S,3S)-3-hydroxy-2-isopropyl-3-methylpyrrolidine-1-carboxylate | 1.78 g | O[C@@]1([C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C(C)C)C | C16H23NO3
solvent | water | 0.09 g | O | H2O
product | (2S,3S)-2-isopropyl-3-methylpyrrolidin-3-ol | C(C)(C)[C@@H]1NCC[C@@]1(O)C | C8H17NO
